* Copyright (c) 2016 Linear Technology Corporation.  All rights reserved.
* Author: Dan Eddleman
*
*SOAtherm Heat Sink Model
***************************************************************

.subckt copper Tc Tinterface Tfin 
R_theta Tfin Ambient {Rtheta}
V1 Ambient 0 {Tambient}
R_interface Tinterface Tc {Rinterface}
*O§HeatSink Tinterface 0 Tfin 0 Copper
.param depth_mm={Volume_mm3/Area_Contact_mm2}
.param r_per_mm={2.5/Area_Contact_mm2}
.param c_per_mm={400*8.96e-6*Area_Contact_mm2}
.param depth0=depth_mm/pow(2,10)
.param depth1=depth0*2
.param depth2=depth1*2
.param depth3=depth2*2
.param depth4=depth3*2
.param depth5=depth4*2
.param depth6=depth5*2
.param depth7=depth6*2
.param depth8=depth7*2
.param depth9=depth8*2+depth0
r0 Tinterface n0 {r_per_mm*depth0}
c0 n0 0  {c_per_mm*depth0}
r1 n0 n1 {r_per_mm*depth1}
c1 n1 0  {c_per_mm*depth1}
r2 n1 n2 {r_per_mm*depth2}
c2 n2 0  {c_per_mm*depth2}
r3 n2 n3 {r_per_mm*depth3}
c3 n3 0  {c_per_mm*depth3}
r4 n3 n4 {r_per_mm*depth4}
c4 n4 0  {c_per_mm*depth4}
r5 n4 n5 {r_per_mm*depth5}
c5 n5 0  {c_per_mm*depth5}
r6 n5 n6 {r_per_mm*depth6}
c6 n6 0  {c_per_mm*depth6}
r7 n6 n7 {r_per_mm*depth7}
c7 n7 0  {c_per_mm*depth7}
r8 n7 n8 {r_per_mm*depth8}
c8 n8 0  {c_per_mm*depth8}
r9 n8 Tfin {r_per_mm*depth9}
c9 Tfin 0  {c_per_mm*depth9}

.param Tambient=85 Depth_mm=10 Area_Contact_mm2=100 Rtheta=10 Rinterface={100/Area_Contact_mm2}
.ends copper_test

.subckt aluminum Tc Tinterface Tfin 
R_theta Tfin Ambient {Rtheta}
V1 Ambient 0 {Tambient}
R_interface Tinterface Tc {Rinterface}
.param depth_mm={Volume_mm3/Area_Contact_mm2}
.param r_per_mm={1/(0.22*Area_Contact_mm2)}
.param c_per_mm={896*2.7e-6*Area_Contact_mm2}
.param depth0=depth_mm/pow(2,10)
.param depth1=depth0*2
.param depth2=depth1*2
.param depth3=depth2*2
.param depth4=depth3*2
.param depth5=depth4*2
.param depth6=depth5*2
.param depth7=depth6*2
.param depth8=depth7*2
.param depth9=depth8*2+depth0
r0 Tinterface n0 {r_per_mm*depth0}
c0 n0 0  {c_per_mm*depth0}
r1 n0 n1 {r_per_mm*depth1}
c1 n1 0  {c_per_mm*depth1}
r2 n1 n2 {r_per_mm*depth2}
c2 n2 0  {c_per_mm*depth2}
r3 n2 n3 {r_per_mm*depth3}
c3 n3 0  {c_per_mm*depth3}
r4 n3 n4 {r_per_mm*depth4}
c4 n4 0  {c_per_mm*depth4}
r5 n4 n5 {r_per_mm*depth5}
c5 n5 0  {c_per_mm*depth5}
r6 n5 n6 {r_per_mm*depth6}
c6 n6 0  {c_per_mm*depth6}
r7 n6 n7 {r_per_mm*depth7}
c7 n7 0  {c_per_mm*depth7}
r8 n7 n8 {r_per_mm*depth8}
c8 n8 0  {c_per_mm*depth8}
r9 n8 Tfin {r_per_mm*depth9}
c9 Tfin 0  {c_per_mm*depth9}

.param Tambient=85 Depth_mm=10 Area_Contact_mm2=100 Rtheta=10 Rinterface={100/Area_Contact_mm2}
.ends aluminum